US06825199B2
1-Butyl-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Twenty percent Pd/C (70 mg) was added to a solution of 3-benzyloxy-1-butyl-6-fluoro-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example O-4, 0.13 g, 0.32 mmol) in 25 mL of THF, and this was shaken under 50 PSI of hydrogen for 17.5 hours. The mixture was filtered and concentrated to give 0.11 g of the title compound as a solid, mp 153-155° C.

reactant | 3-benzyloxy-1-butyl-6-fluoro-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.32 mmol, 0.13 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCCC2)F)CCCC)=O | C22H25FN4O3
reactant | hydrogen | [H][H] | H2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 1-Butyl-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.11 g | C(CCC)N1C(N(C(C2=C1N=C(C(=C2)F)N2CCCC2)=O)O)=O | C15H19FN4O3
